US07732446B1
As described in example 1, a solution of [4-(benzyl-methyl-carbamoyl)-6,7-dimethoxy-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester (82 mg) was treated with HCl in EtOAc to give 56 mg (79%) of 1-aminomethyl-6,7-dimethoxy-isoquinoline-4-carboxylic acid benzyl-methyl-amide hydrochloride: 1H NMR (DMSO-d6) δ 2.68 (s, 2H), 3.67 (s, 2H), 3.91 (s, 1H), 3.97 (s, 3H), 4.33 (br s, 1H), 4.67-4.72 (m, 3H), 6.80 (s, 1H), 7.04-7.51 (m, 6H), 8.36 (d, 1H, J=4.26 Hz), 8.56-8.63 (m, 3H); MS: APCI (M+H) calc'd for C21H23N3O3 366.2; found 366.1.

reactant | [4-(benzyl-methyl-carbamoyl)-6,7-dimethoxy-isoquinolin-1-ylmethyl]-carbamic acid tert-butyl ester | 82 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=C(C=C12)OC)OC)C(N(C)CC1=CC=CC=C1)=O)=O | C26H31N3O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-aminomethyl-6,7-dimethoxy-isoquinoline-4-carboxylic acid benzyl-methyl-amide hydrochloride | 56 mg, 79% | Cl.C(C1=CC=CC=C1)N(C(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)CN)C | InChI=1S/C21H23N3O3.ClH/c1-24(13-14-7-5-4-6-8-14)21(25)17-12-23-18(11-22)16-10-20(27-3)19(26-2)9-15(16)17;/h4-10,12H,11,13,22H2,1-3H3;1H
